US04431653
A mixture of 4-[(1H-imidazol-1-yl)methyl]-piperidine (5 g, 0.03 M) and dimethylformamide dimethylacetal (40 ml) was heated at 100° C. for 8 hrs. Removal of the excess of dimethylformamide dimethylacetal gave 4-[(imidazol-1-yl)methyl]-1-piperidine carboxaldehyde dimethylacetal (6.33 g) which was dissolved in methylene chloride (25 ml) and added to the mixture of 6-aminopenicillanic acid (5.15 g, 0.024 M) and diisopropylethylamine (3.14 ml) in methylene chloride (90 ml) at 0° C. The reaction was stirred at 0° C. for 1 hr and room temperature for 3 hrs. The solvent was then removed and water (80 ml) was added. After being washed with ethylacetate, the aqueous solution, acidified to pH 3, was purified on Sephadex LH 20 columns to give [2S-(2alpha,5alpha,6beta)]-6-[[[4-(1H-imidazol-1-yl-methyl)-1-piperidinyl]methylene]amino]-3,3 -dimethyl-6-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid (5.2 g, 55% yield).

reactant | 4-[(1H-imidazol-1-yl)methyl]-piperidine | 0.03 M, 5 g | N1(C=NC=C1)CC1CCNCC1 | C9H15N3
reactant | dimethylformamide dimethylacetal | 40 ml | COC(N(C)C)OC | C5H13NO2
product | 4-[(imidazol-1-yl)methyl]-1-piperidine carboxaldehyde dimethylacetal | 6.33 g | COC(N1CCC(CC1)CN1C=NC=C1)OC | C12H21N3O2
